US04058568
30 g. of tert-butylhydroquinone (Eastman-Kodak) were dissolved in 200 ml. of anhydrous ether and 30 g. of anhydrous sodium sulfate were added. To this mixture was added 60 g. of silver oxide in small increments. An exothermic reaction ensued. After shaking for 20 minutes, the reaction mixture was filtered and the filtrate evaporated under the hood. Yellow crystals of tert-butyl-p-benzoquinone were obtained melting at 55°-60° C.

reactant | tert-butylhydroquinone | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | silver oxide | [Ag]=O
solvent | ether | CCOCC | C4H10O
product | tert-butyl-p-benzoquinone | C(C)(C)(C)C=1C(C=CC(C1)=O)=O | C10H12O2
